US09290472B2
n-Butyl lithium (2.5M solution in hexanes. 11 mL) was added dropwise to a cooled solution of tert-butyl (S)-2-ethynylpyrrolidine-1-carboxylate (prepared according A Paul et al, Tetrahedron, 2006, 62, 8919, 4.49 g) in dry THF (230 ml) under an atmosphere of nitrogen while maintaining the temperature below −65° C. When the addition was completed, the mixture was stirred at −78° C. for 15 minutes then allowed to warm to 0° C. and stirred for 2.5 hours. Tributyl tin chloride (7.7 mL) was added dropwise over five minutes and the mixture was stirred at room temperature for 1.5 hours. The mixture was cooled to 0° C. and saturated sodium bicarbonate was added while maintaining the temperature below 15° C. The layers were separated and the aqueous layer was extracted with ethyl acetate, washed with saturated sodium bicarbonate, water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromatography on silica, eluting with a mixture of pentane and ethyl acetate with a gradient of 0-7.5% to give tert-butyl (S)-2-tributylstannanylethynylpyrrolidine-1-carboxylate (0.39 g) as an oil.

reactant | n-Butyl lithium | 2.5M, 11 mL | C(CCC)[Li]
reactant | tert-butyl (S)-2-ethynylpyrrolidine-1-carboxylate | C(#C)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C11H17NO2
reactant | Tributyl tin chloride | 7.7 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 230 ml | C1CCOC1 | C4H8O
product | tert-butyl (S)-2-tributylstannanylethynylpyrrolidine-1-carboxylate | 0.39 g | C(CCC)[Sn](C#C[C@H]1N(CCC1)C(=O)OC(C)(C)C)(CCCC)CCCC | InChI=1S/C11H16NO2.3C4H9.Sn/c1-5-9-7-6-8-12(9)10(13)14-11(2,3)4;3*1-3-4-2;/h9H,6-8H2,2-4H3;3*1,3-4H2,2H3;/t9-;;;;/m1..../s1
